US06339099B1
To a solution of 2-aminoimidazole sulfate (2.24 g, 17 mmol) in DMF (30 mL) was added 4-bromo-1-nitrobenzene (3.4 g, 17 mmol), K2CO3 (4.69 g, 34 mmol) and 18-crown-6 (50 mg), and the resulting mixture was stirred at 80° C. for 16 hours. The mixture was cooled to room temperature, and was diluted with EtOAc (150 mL) and water (50 mL). The organic layer was washed with brine (20 mL×5), dried over MgSO4, and concentrated to give 4-(2′-amino-imidazol-1′-yl)nitrobenzene (3.23 g, 98%). 1H NMR (CD3OD) δ8.38 (d, J=9.1 Hz, 2H), 7.73 (d, J=9.1 Hz, 2H), 6.90 (d, J=1.9 Hz, 1H), 6.66 (d, J=1.9 Hz, 1H); MS(ES+) m/z 205 (M+H, 100).

reactant | 2-aminoimidazole sulfate | 17 mmol, 2.24 g | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | 4-bromo-1-nitrobenzene | 17 mmol, 3.4 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | K2CO3 | 34 mmol, 4.69 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | 18-crown-6 | 50 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 4-(2′-amino-imidazol-1′-yl)nitrobenzene | 3.23 g, 98% | C1=CC(=CC=C1N2C=CN=C2N)[N+](=O)[O-] | C9H8N4O2
